US08420640B2
A suspension of 5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (1.0 g, 2.5 mmol), benzylbromide (0.3 ml, 2.5 mmol), potassium hydroxide (0.18 g, 3.2 mmol) and tetra-butyl ammonium iodide (0.05 g, 0.25 mmol) in 40 ml toluene was stirred at room temperature overnight. The red solids were filtered to get N-benzyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (1.1 g, 90%). 1H NMR (500 MHz, DMSO-d6) δ (ppm) 3.40-3.58 (m, br, 8H), 4.94 (s, 2H), 6.30 (d, J=8.0 Hz, 2H), 6.73 (t, J=7.2 Hz, 1H), 6.88 (d, J=9.2 Hz, 2H), 7.09-7.48 (m, 12H), 7.98 (d, J=8.9 Hz, 1H).

reactant | 5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 2.5 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C23H22N4O3
reactant | benzylbromide | 2.5 mmol, 0.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 3.2 mmol, 0.18 g | [OH-].[K+]
catalyst | tetra-butyl ammonium iodide | 0.25 mmol, 0.05 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 1.1 g, 90% | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C1=CC=CC=C1 | C30H28N4O3
